US07338973B2
12-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-6,7-dihydro-12H5-thia-12-aza-dibenzo[a,e]azulen-9-ol
9-(tert-Butyl-dimethyl-silanyloxy)-12-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-6,7-dihydro-12H-5-thia-12-aza-dibenzo[a,e]azulene (130 mg, 0.222 mmol) in 5 mL 1.0 N TBAF in THF solution was stirred for 30 min at room temperature. The reaction was worked up by CH2Cl2 extraction three times from water. The combined organic layer was dried and concentrated and purified by column using 4:1 CH2Cl2 and methanol solution to yield the title compound as a brown solid.

reactant | 9-(tert-Butyl-dimethyl-silanyloxy)-12-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-6,7-dihydro-12H-5-thia-12-aza-dibenzo[a,e]azulene | 0.222 mmol, 130 mg | C(C)(C)(C)[Si](OC=1C=CC2=C(C=3CCSC4=C(C3N2CC2=CC=C(C=C2)OCCN2CCCCC2)C=CC=C4)C1)(C)C | C36H46N2O2SSi
solvent | TBAF | 1.0 N, 5 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | C1CCOC1 | C4H8O
product | 12-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-6,7-dihydro-12H5-thia-12-aza-dibenzo[a,e]azulen-9-ol | N1(CCCCC1)CCOC1=CC=C(CN2C3=C(C=4CCSC5=C(C24)C=CC=C5)C=C(C=C3)O)C=C1 | C30H32N2O2S
